US07994331B2
Production of methyl 2-fluoro-5-nitro-4-[(2-pyridinylcarbonyl)amino]benzoate
With cooling with ice, fuming nitric acid (110 ml) was gradually added to methyl 2-fluoro-4-[(2-pyridinylcarbonyl)amino]benzoate (27.7 g), and stirred at room temperature for 1.5 hours. With cooling with ice, the reaction liquid was gradually added to an aqueous solution (2000 ml) of sodium carbonate (138 g), and the formed solid was taken out through filtration. After dried under reduced pressure, the entitled compound was obtained as a yellow solid.

reactant | nitric acid | 110 ml | [N+](=O)(O)[O-] | HNO3
reactant | methyl 2-fluoro-4-[(2-pyridinylcarbonyl)amino]benzoate | 27.7 g | FC1=C(C(=O)OC)C=CC(=C1)NC(=O)C1=NC=CC=C1 | C14H11FN2O3
solvent | sodium carbonate | 2000 ml, 138 g | C([O-])([O-])=O.[Na+].[Na+]
product | methyl 2-fluoro-5-nitro-4-[(2-pyridinylcarbonyl)amino]benzoate | FC1=C(C(=O)OC)C=C(C(=C1)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C14H10FN3O5
